US06455671B1
c) 2-Methoxy-3-picolylamine 2HCl
15.1 g of 2-methoxy-3-picolyl chloride hydrochloride (77.76 mmol) were slowly added dropwise to a mixture of 600 ml of 30% strength ammonia solution in water and 250 ml of methanol at 35° C. while continuously passing in gaseous ammonia. After the solution had been stirred at 35° C. for 1 h it was concentrated under reduced pressure in a rotary evaporator, the residue was made alkaline with 20% strength NaOH solution (water phases were kept small) and extracted several times with DCM, and the org. phases were dried over magnesium sulfate and concentrated under reduced pressure in a rotary evaporator. The residue was taken up in ether and, after addition of ethereal hydrochloric acid, filtration with suction and washing of the precipitate with ether, 11.0 g (67%) of 2-methoxy-3-picolylamine.2HCl were obtained as white crystals.

reactant | 2-methoxy-3-picolyl chloride hydrochloride | 77.76 mmol, 15.1 g | Cl.COC1=NC=CC=C1CCl
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 2-Methoxy-3-picolylamine 2HCl | Cl.Cl.COC1=NC=CC=C1CN | InChI=1S/C7H10N2O.2ClH/c1-10-7-6(5-8)3-2-4-9-7;;/h2-4H,5,8H2,1H3;2*1H
